US07317022B2
d. Preparation of 1-[(R)-tetrahydro-2-furoyl]-4-((S)-oxiranylmethyl)-piperazine
To a cold solution of (S)-1-chloro-3-(4-[(R)-tetrahydro-2-furoyl]-1-piperazinyl)-2-propanol (2.4 g, 8.67 mmol) in THF (25 mL) in an ice bath was added water (7 mL), and then sodium hydroxide (0.416 g, 10.41 mmol) as solid pellets. The mixture was stirred vigorously at the same temperature for 1 h, and diluted with dichloromethane (200 mL). The mixture was washed with 1M sodium hydroxide and brine solution, then dried and concentrated, to provide the title intermediate.

reactant | (S)-1-chloro-3-(4-[(R)-tetrahydro-2-furoyl]-1-piperazinyl)-2-propanol | 8.67 mmol, 2.4 g | ClC[C@H](CN1CCN(CC1)C(=O)[C@@H]1OCCC1)O | C12H21ClN2O3
reactant | water | 7 mL | O | H2O
reactant | sodium hydroxide | 10.41 mmol, 0.416 g | [OH-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1-[(R)-tetrahydro-2-furoyl]-4-((S)-oxiranylmethyl)-piperazine | O1[C@H](CCC1)C(=O)N1CCN(CC1)C[C@@H]1OC1 | C12H20N2O3
